Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Confusion
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with ___ body dementia, NPH w/ shunt, presenting with 1 day 
of altered mental status. She is visiting from ___ with 
her husband and, per the family, she had to be lifted out of bed 
because she was altered and lethargic. She states that she did 
not feel like herself and she had associated balance problems 
and dizziness, reporting similar symptoms from before she had 
the shunt. She also endorses more frequent urination than usual, 
but denies dysuria. She is often incontinent, but is unsure if 
this has increased in frequency. She has a history of UTIs in 
recent months, one of which she did not complete her full course 
of treatment. The patient's family called her PCP, who 
recommended that they take her temperature, which was 101.9. She 
was brought to the ___ ED for further evaluation.

In the ED, initial vitals: 99.8 80 127/103 16 96%RA 
- Exam notable for: normal neuro exam, benign abdomen
- Had fever of 100.8 at 2:41am ___
- Labs notable for: WBC 10.7 w 74.9% polys, UA >182 WBCs, +leuk, 
+bact
- Imaging notable for: VP shunt in good position
- Pt given: 2 gm ceftriaxone, Tylenol, home sertraline

The ED touched base with outpatient NP, who said shunt was 
recently adjusted (in ___ and should not be adjusted 
unless absolutely necessary. Neurosurgery assessed patient in 
the ED and felt there was no need for intervention re: shunt.

- Vitals prior to transfer: 99.5 73 125/74 16 98%RA 

On arrival to the floor, pt reports feeling better and has no 
complaints. She endorses some dizziness on sitting up. She 
denies any pain. She denies any dysuria, N/V, diarrhea, chest 
pain, SOB, or cough. She has no headache and no vision changes. 
She has no neck stiffness. 

 
Past Medical History:
___ body dementia
NPH
Depression
Urge incontinence 

 
Social History:
___
Family History:
Noncontributory. Son w diabetes.
 
Physical Exam:
Admission:
Vitals- 99.8 135/63 72 18 100%RA 
General- Alert, lying on bed, oriented, no acute distress  
HEENT- Sclerae anicteric, MMM, oropharynx clear  
Neck- supple, JVP not elevated, no LAD  
Lungs- CTAB no wheezes, rales, rhonchi  
CV- RRR, Nl S1, S2, No MRG  
Abdomen- soft, mildly tender, bowel sounds present, no rebound 
tenderness or guarding, no organomegaly  
GU- no foley  
Ext- warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro- CNs2-12 intact, slight end gaze nystagmus bilaterally, 
___ strength in upper extremities, slightly tremulous but 
finger-to-nose negative for cerebellar signs 
Skin: Area of excoriation and healing lesions on left shoulder 
(patient scratches here)

Discharge:
Vitals- 98.8 115/62 67 18 100%RA 
General- Alert, lying on bed, oriented, no acute distress  
HEENT- Sclerae anicteric, MMM, oropharynx clear  
Neck- supple, JVP not elevated, no LAD  
Lungs- CTAB no wheezes, rales, rhonchi  
CV- RRR, Nl S1, S2, No MRG  
Abdomen- soft, mildly tender, bowel sounds present, no rebound 
tenderness or guarding, no organomegaly  
GU- no foley  
Ext- warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro- CNs2-12 intact, slight end gaze nystagmus bilaterally, 
___ strength in upper extremities, slightly tremulous but 
finger-to-nose negative for cerebellar signs 
Skin: Area of excoriation and healing lesions on left shoulder 
(patient scratches here)

 
Pertinent Results:
Admission:

___ 01:50AM BLOOD WBC-10.7 RBC-4.34 Hgb-13.5 Hct-38.8 
MCV-89 MCH-31.1 MCHC-34.8 RDW-13.8 Plt ___
___ 04:43AM BLOOD ___ PTT-29.9 ___
___ 01:50AM BLOOD Glucose-106* UreaN-18 Creat-0.7 Na-136 
K-3.5 Cl-98 HCO3-26 AnGap-16

Discharge
___ 06:50AM BLOOD Calcium-8.8 Phos-3.2 Mg-2.0
___ 06:50AM BLOOD WBC-7.8 RBC-4.05* Hgb-12.4 Hct-36.3 
MCV-90 MCH-30.6 MCHC-34.2 RDW-13.6 Plt ___
___ 06:50AM BLOOD Glucose-91 UreaN-12 Creat-0.6 Na-138 
K-3.4 Cl-104 HCO3-23 AnGap-14
___ 06:50AM BLOOD Calcium-8.8 Phos-3.2 Mg-2.0

Imaging:
IMPRESSION:  
  
1.  No acute intracranial hemorrhage. 
  
2.  Enlargement of the ventricles out of proportion to sulci 
compatible with 
known history of normal pressure hydrocephalus.  Right posterior 
parietal 
approach VP shunt in place,  terminating at the medial margin of 
the superior 
body of the right lateral ventricle or just adjacent in the 
septum.  Correlate 
clinically. 
Prior study, if available, would be helpful for assessment of 
interval change. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 ORGANISMS/ML.. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------   <=2 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S
 
Brief Hospital Course:
___ with ___ body dementia, NPH presenting with AMS, fever, and 
UA concerning for UTI. 
  
# UTI: UA with >182 WBCs, +leukocytes, +bacteria, +blood. UTI  
likely in setting of increased urinary urgency and fever with 
confusion/mental status changes. She has history of UTIs in the 
past and most recently 1 month ago but did not complete a course 
of treatment. No known hx of resistant organisms. She was 
transitioned to PO ciprofloxacin with resolution in symptoms. 
Urine culture resulted as ecoli sensitive to Cipro. Pt was 
called and informed of this and was encouraged to complete ___nd follow up with PCP. She was continued on home 
Vesicare, Myrbetriq for urge incontinence.

Chronic Issues:
# ___ body dementia: No active issues although likely 
contributing to baseline balance issues and mental status. She 
was continued on home donepezil.

# NPH w shunt: Evaluated by neurosurgery this admission to 
ensure it was not contributing to presentation. CT imaging did 
not show any concerning changes but we recommended she follow up 
with with neurosurgeon in ___ to ensure stability.

# Depression: No active issues. Continued home sertraline

Transitions of Care:
Complete 7 day course of Cipro for complicated UTI
Follow up with outpatient neurosurgeon and PCP

 
___ on ___:
The Preadmission Medication list is accurate and complete.
1. Donepezil 10 mg PO QHS 
2. Myrbetriq (mirabegron) 50 mg oral DAILY 
3. Sertraline 150 mg PO DAILY 
4. Vesicare (solifenacin) 5 mg oral DAILY 

 
Discharge Medications:
1. Donepezil 10 mg PO QHS 
2. Sertraline 150 mg PO DAILY 
3. Vesicare (solifenacin) 5 mg oral DAILY 
4. Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*12 Tablet Refills:*0
5. Myrbetriq (mirabegron) 50 mg oral DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Urinary Tract Infection
Toxic Metabolic Encephalopathy

Secondary:
NPH s/p VP shunt
___ Body Dementia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,

It was a pleasure taking care of you at ___. You came in with 
lethargy and confusion. We believe your symptoms are secondary a 
urinary tract infection. We are treating you with antibiotics 
and your symptoms have improved. Our neurosurgeons also 
evaluated you and did not think there were any problems with 
your shunt.

 
Followup Instructions:
___